US04209626
5-(4-Chlorophenyl)-2-hydrazinopyridine
A mixture of 21.1 g. of 2-chloro-5-(4-chlorophenyl)-pyridine and 19.5 g. of 95% hydrazine in 200 ml. of pyridine is heated at reflux temperature for 48 hours. The reaction mixture is cooled, poured into an ice-water mixture and filtered. The solid is collected, washed with water and air dried to yield 17.0 g. of the product of the Example as a tan solid.

reactant | 2-chloro-5-(4-chlorophenyl)-pyridine | ClC1=NC=C(C=C1)C1=CC=C(C=C1)Cl | C11H7Cl2N
reactant | hydrazine | NN | H4N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-(4-Chlorophenyl)-2-hydrazinopyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)NN | C11H10ClN3
